US08044062B2
To 8-cyclohexyl-2-(ethylamino)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one in AcOH and CH2Cl2 was added Br2 (22 uL, 0.42 mmol) at 80° C. Standard workup and purification by column chromatography gave 65 mg (0.17 mmol, 80% yield) of 6-bromo-8-cyclohexyl-2-(ethylamino)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one.

reactant | 8-cyclohexyl-2-(ethylamino)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | C1(CCCCC1)N1C(C=CC2=C1N=C(N=C2C)NCC)=O | C16H22N4O
reactant | Br2 | 0.42 mmol, 22 uL | BrBr | Br2
solvent | AcOH | CC(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-bromo-8-cyclohexyl-2-(ethylamino)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.17 mmol, 65 mg, 80% yield | BrC1=CC2=C(N=C(N=C2C)NCC)N(C1=O)C1CCCCC1 | C16H21BrN4O
